US08067445B2
Step 1: {2′-[3-(3,5-Dichloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
To a solution of (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.170 g, 0.43 mmol) in CH2Cl2 (2 mL) at 0° C. was added diisopropylethylamine (0.19 mL, 1.08 mmol), followed by phosgene (20% in toluene; 0.34 mL, 0.64 mmol), and the mixture was stirred for 1.5 hours. 3,5-Dichlorobenzylamine (0.091 g, 0.52 mmol) was added, followed by triethylamine (0.12 mL, 0.86 mmol), and the reaction was warmed to room temperature and stirred for 45 minutes. Analytical LCMS indicated that some starting material was still present, so additional triethylamine (0.12 mL, 0.86 mmol) was added, and the reaction was stirred for 1.5 hours. Analytical LCMS showed that starting material still remained, so another portion of triethylamine (0.25 mL, 17.9 mmol) was added, and the reaction was stirred overnight at room temperature. The mixture was worked up with CH2Cl2 and H2O, and the aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried and concentrated, and the residue was purified by silica gel chromatography (0-50% EtOAc in hexanes) to give the title compound.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 0.43 mmol, 0.170 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | diisopropylethylamine | 1.08 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | 0.64 mmol, 0.34 mL | C(=O)(Cl)Cl | CCl2O
reactant | 3,5-Dichlorobenzylamine | 0.52 mmol, 0.091 g | ClC=1C=C(CN)C=C(C1)Cl | C7H7Cl2N
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 17.9 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | {2′-[3-(3,5-Dichloro-benzyl)-1-ethyl-ureidomethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC(=CC(=C1)Cl)Cl)CC)=O | C29H29Cl2F3N2O4
